US07829560B2
3,6′-Dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide (Compound B153).
Compound is formed by reacting 2-chloro-6-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide with 3-methylpiperidine under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.27 (s, 1H), 8.22 (d, 1H), 7.85 (m, 1H), 7.57 (m, 2H), 7.43 (d, 1H), 7.17 (s, 1H), 7.04 (d, 1H), 6.99 (s, 1H), 4.31 (m, 2H), 3.60 (t, 4H), 2.88 (t, 2H), 2.79 (t, 2H), 2.56 (t, 4H), 2.39 (s, 3H), 1.85-1.20 (m, 6H), 1.15 (m, 1H), 0.94 (d, 3H). MS: 489.2 (M+1).

reactant | 2-chloro-6-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C(N1)C | C23H24ClN3O3
reactant | 3-methylpiperidine | CC1CNCCC1 | C6H13N
product | 3,6′-Dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4′-carboxylic acid [4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-amide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C1=CC(=NC(=C1)C)N1CC(CCC1)C | C29H36N4O3
